US07312074B1
Preparation of PDCP Stock.
Separate PDCP stocks were prepared for each repertoire library. The bacteria were then scraped off the plates into 30 ml 2xTY broth supplemented with 20% glycerol, 1% glucose and 100 μg/ml ampicillin. 3 ml was added to a 50 ml 2xTY culture broth supplemented with 1% glucose and 100 μg/ml ampicillin and infected with 1011 kanamycin resistance units (kru) M13K07 helper phage at 37° C. for 30 minutes without shaking, then for 30 minutes with shaking at 200 rpm. Infected bacteria were transferred to 500 ml 2xTY broth supplemented with 25 μg/ml kanamycin, 100 μg/ml ampicillin, and 20 μM IPTG, then incubated overnight at 30° C., shaking at 200 rpm. Bacteria were pelleted at 4000 rpm for 20 minutes in 50 ml Falcon tubes, and 80 ml 2.5M NaCl/20% PEG 6000 was added to 400 ml of particle supernatant, mixed vigorously and incubated on ice for 1 hour to precipitate PDCP particles. Particles were pelleted at 11000 rpm for 30 minutes in 250 ml Oakridge tubes at 4° C. in a Sorvall RC5B centrifuge, then resuspended in 40 ml water and 8 ml 2.5M NaCl/20% PEG 6000 added to reprecipitate particles, then incubated on ice for 20 minutes. Particles were again pelleted at 11000 rpm for 30 minutes in 50 ml Oakridge tubes at 4° C. in a Sorvall RC5B centrifuge, then resuspended in 5 ml PBS buffer, after removing all traces of PEG/NaCl with a pipette. Bacterial debris was removed by a 5 minute 13500 rpm spin in a microcentrifuge. The supernatant was filtered through a 0.45 μm polysulfone syringe filter, adjusted to 20% glycerol and stored at −70° C.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
reactant | IPTG | 20 μM | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | NaCl | 2.5M, 80 ml | [Na+].[Cl-]
reactant | glycerol | OCC(O)CO | C3H8O3
product | PDCP | CCOC(=O)C1(C(CC(=O)N1)C2=CC=CC=C2)C(=O)OCC | C16H19NO5
